US06376657B1
N-Bromosuccinimide (1,2 g) and diethylaminosulphur trifluoride (1,2 g) are added to a solution of the pivaloyl ester (49) (2 g) in dichloromethane (100 ml) at 0° C. After 1 hour, saturated sodium bicarbonate is added. The dichloromethane layer is dried (MgSO4), filtered and evaporated. The β-fluoropyranoside (50) is purified by silica gel column chromatography eluting with ethyl acetate:hexane (2:8), (yield 45%).

reactant | N-Bromosuccinimide | 1,2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | diethylaminosulphur trifluoride | 1,2 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | ethyl acetate hexane | yield 45% | C(C)(=O)OCC.CCCCCC | InChI=1S/C6H14.C4H8O2/c1-3-5-6-4-2;1-3-6-4(2)5/h3-6H2,1-2H3;3H2,1-2H3
